US07595320B2
N′-Benzhydrylidene-N-(4-chlorophenyl)-N-methylhydrazine (1.5 g, 4.68 mmol) is placed in 20 mL of tetrahydrofuran with stirring. 5 mL of 5 N hydrochloric acid are added thereto and the solution is then left stirring at a temperature in the region of 50° C. for 16 hours. The aqueous phase is then neutralized with 5 N sodium hydroxide and is then extracted with ethyl acetate. The oil obtained after extraction is purified by chromatography on silica gel, eluting at the start with an ethyl acetate/heptane mixture (10/90 by volume). N-(4-Chlorophenyl)-N-methylhydrazine is thus obtained in the form of a pale yellow oil, 0.53 g (72%). (Rf=0.48. 20/80 EtOAc/heptane (v/v)).

reactant | N′-Benzhydrylidene-N-(4-chlorophenyl)-N-methylhydrazine | 4.68 mmol, 1.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN(C)C1=CC=C(C=C1)Cl | C20H17ClN2
reactant | hydrochloric acid | 5 N, 5 mL | Cl | ClH
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(4-Chlorophenyl)-N-methylhydrazine | ClC1=CC=C(C=C1)N(N)C | C7H9ClN2
